US06908913B2
4-Nitrobenzyl (1S,5R,6S)-2-(7-chloroacetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (161 mg) was dissolved in 5 ml of acetone to prepare a solution. Sodium iodide (67 mg) was added to the solution, and the mixture was stirred at room temperature for 1.5 hr. Brine was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residue was dissolved in 5 ml of N,N-dimethylformamide to prepare a solution. Pyrrolidine (0.03 ml) was added to the solution, and the mixture was stirred at room temperature for 2 hr. Brine was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residue was washed with diethyl ether to give 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyrrolidin-1-yl)acetylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate.

reactant | 4-Nitrobenzyl (1S,5R,6S)-2-(7-chloroacetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 161 mg | ClCC(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C24H21ClN4O7S
reactant | Sodium iodide | 67 mg | [I-].[Na+]
reactant | Pyrrolidine | 0.03 ml | N1CCCC1 | C4H9N
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | Brine | [Cl-].[Na+].O
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyrrolidin-1-yl)acetylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(CN3CCCC3)=O)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C28H29N5O7S
